US08470820B2
Step 3: 5-Bromo-2-methoxymethyl-pyridine-1-oxide
To a solution of 5-bromo-2-hydroxymethyl-pyridine-1-oxide (6.43 g, 31.5 mmol) in THF (200 ml) was added sodium hydride (1.51 g, 63.1 mmol) at 0° C., and then the reaction mixture was stirred at ambient temperature for 1 h. After cooling to 0° C., MeI (2.90 ml, 46.6 mmol) was added. The temperature was raised to ambient temperature and the reaction mixture was heated to 70° C. for 1 h. After cooling to 0° C. the reaction mixture was quenched with MeOH. The solvents were removed, and the crude product was purified by silica gel chromatography using an ethyl acetate/hexane eluent to yield 4.8 g (70%) of the title compound.

reactant | 5-bromo-2-hydroxymethyl-pyridine-1-oxide | 31.5 mmol, 6.43 g | BrC=1C=CC(=[N+](C1)[O-])CO | C6H6BrNO2
reactant | sodium hydride | 63.1 mmol, 1.51 g | [H-].[Na+]
reactant | MeI | 46.6 mmol, 2.90 ml | CI | CH3I
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 5-Bromo-2-methoxymethyl-pyridine-1-oxide | 4.8 g, 70% | BrC=1C=CC(=[N+](C1)[O-])COC | C7H8BrNO2
